US08258160B2
Synthesis of butyl 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylate
A mixture of ethyl 5-cyano-3-methylthiophene-2-carboxylate (0.37 g, 1.90 mmol), phenylacetic hydrazide (0.29 g, 1.90 mmol) and potassium carbonate (0.26 g, 1.90 mmol) in 1-butanol (5 mL) was stirred in a sealed tube at 150° C. for 20 h. The reaction mixture was cooled to ambient temperature and concentrated. The residue was purified by column chromatography eluted with 0-30% ethyl acetate in hexanes to afford the title compound as a colorless solid (0.28 g, 42%). 1H NMR (300 MHz, CDCl3) δ 10.49 (br s, 1H), 7.46 (s, 1H), 7.41-7.27 (m, 5H), 4.28 (t, J=6.5 Hz, 2H), 4.21 (s, 2H), 2.56 (s, 3H), 1.77-1.66 (m, 2H), 1.54-1.40 (m, 2H), 0.96 (t, J=7.3 Hz, 3H); MS (ES+) m/z 356.3 (M+1).

reactant | ethyl 5-cyano-3-methylthiophene-2-carboxylate | 1.90 mmol, 0.37 g | C(#N)C1=CC(=C(S1)C(=O)OCC)C | C9H9NO2S
reactant | phenylacetic hydrazide | 1.90 mmol, 0.29 g | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
reactant | potassium carbonate | 1.90 mmol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-butanol | 5 mL | C(CCC)O | C4H10O
product | butyl 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylate | 0.28 g, 42% | C(C1=CC=CC=C1)C1=NC(=NN1)C1=CC(=C(S1)C(=O)OCCCC)C | C19H21N3O2S
